US08080566B1
A 250-mL round-bottomed flask was charged with a solution of benzyl 3-(1H-imidazol-2-yl)piperidine-1-carboxylate (1.5 g, 5.26 mmol, 1.00 equiv) in dioxane (15 mL). To this was added conc. HCl (9 mL). The resulting mixture was stirred for 4 hours at 70° C. in an oil bath. The reaction progress was monitored by TLC (DCM: MeOH=10:1). Upon completion, the resulting solution was diluted with dioxane (10 mL) and concentrated on a rotary evaporator affording 3-(1H-imidazol-2-yl)piperidine hydrochloride as black solid in (0.48 g, 57%).

reactant | benzyl 3-(1H-imidazol-2-yl)piperidine-1-carboxylate | 5.26 mmol, 1.5 g, 1.00 equiv | N1C(=NC=C1)C1CN(CCC1)C(=O)OCC1=CC=CC=C1 | C16H19N3O2
reactant | HCl | 9 mL | Cl | ClH
reactant | DCM | C(Cl)Cl | CH2Cl2
reactant | MeOH | CO | CH4O
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 3-(1H-imidazol-2-yl)piperidine hydrochloride | Cl.N1C(=NC=C1)C1CNCCC1 | InChI=1S/C8H13N3.ClH/c1-2-7(6-9-3-1)8-10-4-5-11-8;/h4-5,7,9H,1-3,6H2,(H,10,11);1H
